US05424329
Ethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate
A solution of ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate (60.9 g, 197 mmol; Monge Vega A, et al., An. Ouim. 1976;72:267) in 550 mL of pyridine is cooled in ice and treated dropwise with a solution of pyridinium bromide perbromide (67.0 g, 209 mmol) in 200 mL of pyridine. The cooling bath is removed, and the mixture is stirred for 16 hours, then added to 4.0 L of cold water. The precipitated solid is filtered, washed with water, and recrystallized from ethyl acetate-hexane to give 58.4 g (76%) of product; mp 125-127° C.

reactant | ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | CN1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OCC | C19H19NO3
reactant | pyridinium bromide perbromide | 209 mmol, 67.0 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | pyridine | 550 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | 58.4 g, 76% | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)OCC | C19H18BrNO3
